US20010056188A1
2) 2-(4-Chlorophenylsulfonyl)-3-(3,5-dichlorophenylamino)-3-(1,2,2-trimethylpropylamino)-2-propenenitrile
2-(4-Chloro-phenylsulfonyl)-3-(3,5-dichlorophenylamino)-3-methylsulfanyl-2-propenenitrile (0.347 g, 0.8 mmol) was stirred in 1,2,2-trimethylpropylamine (1 ml) for 22 h at 100° C. under nitrogen in a sealed flask. Work up as described in Example 1, 2) gave 235 mg (60%) of the title compound. Mp 163-169° C. 1H NMR (200 MHz, CDCl3): δ=0.9 (s, 9H), 1.0 (d, 3H), 3.05 (m, 1H), 6.85 (br s, 2H), 7.2 (br s, 1H), 7.50 (d, 2H), 7.78 (d, 2H); EI SP/MS: 485 (M+), 487 (M+2), 489 (M+4), 491 (M+6).

reactant | 2-(4-Chloro-phenylsulfonyl)-3-(3,5-dichlorophenylamino)-3-methylsulfanyl-2-propenenitrile | 0.8 mmol, 0.347 g | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(SC)NC1=CC(=CC(=C1)Cl)Cl | C16H11Cl3N2O2S2
reactant | 1,2,2-trimethylpropylamine | 1 ml | CC(C(C)(C)C)N | C6H15N
product | 2-(4-Chlorophenylsulfonyl)-3-(3,5-dichlorophenylamino)-3-(1,2,2-trimethylpropylamino)-2-propenenitrile | 235 mg, 60% | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(NC(C(C)(C)C)C)NC1=CC(=CC(=C1)Cl)Cl | C21H22Cl3N3O2S
